data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_125915_1,[C:1]1([C:3](=[C:5]([H:12])[H:14])[H:10])([H:8])[C:2]([C:4](=[C:6]([H:13])[H:15])[H:11])([H:9])[O:7]1>>[C:1]([C:2]([C:4](=[C:6]([H:13])[H:15])[H:11])([H:8])[H:9])([C:3](=[C:5]([H:12])[H:14])[H:10])=[O:7],53.265337499991006
MR_467445_0,[C:1]([C:3](/[C:4](=[C:2](\[O:7][H:8])[H:11])[H:13])([O:6][H:9])[H:12])(=[O:5])[H:10]>>[C:1]([C:2](/[C:4](=[C:3](\[O:6][H:9])[H:12])[H:13])([O:7][H:8])[H:11])(=[O:5])[H:10],54.7569050000061
MR_491651_0,[C:1]([C:2]([C:5]([H:21])([H:22])[H:23])([O:8][C:4]([H:18])([H:19])[H:20])[H:11])([C:3]([N:7]([H:14])[H:15])([H:16])[H:17])([N:6]([H:12])[H:13])[O:9][H:10]>>[C:1]([C:2]([C:3]([N:7]([H:14])[H:15])([H:16])[H:17])([C:5]([H:21])([H:22])[H:23])[H:11])([N:6]([H:12])[H:13])([O:8][C:4]([H:18])([H:19])[H:20])[O:9][H:10],72.80506000002418
MR_550885_1,[C:1]([C:2]([H:12])([H:13])[H:14])([O:5][C:3]([N:4]([H:10])[H:11])=[O:8])([N:6]=[O:7])[H:9]>>[C:1]1([C:2]([H:12])([H:13])[H:14])([H:9])[C:3]([N:4]([H:10])[H:11])([O:8][N:6]=[O:7])[O:5]1,70.11308500000794
MR_119372_1,[C:1]([N:2]([N:4]([H:9])[H:10])[H:8])(/[C:3]([N:5]([H:11])[H:12])=[C:7](/[N:6]([H:13])[H:14])[H:17])([H:15])[H:16]>>[C:1](=[C:3]([N:5]([H:11])[H:12])[C:7]([N:2]([N:4]([H:9])[H:10])[H:8])([N:6]([H:13])[H:14])[H:17])([H:15])[H:16],53.7685925000045
MR_520532_0,[C:1]1([H:10])([H:11])[C:4](/[C:2](=[N:6]\[H:8])[H:12])([H:14])[C:5]1(/[C:3](=[N:7]\[H:9])[H:13])[H:15]>>[C:1](/[C:2](=[N:6]\[H:8])[H:12])(/[C:4](=[C:5]([C:3](=[N:7]\[H:9])/[H:13])\[H:15])[H:14])([H:10])[H:11],72.5917100000278
MR_210530_0,[C:1]1([C:2]([H:14])([H:15])[H:16])([C:3]([H:13])([H:17])[H:18])[C:5]([N:4]([O:7][H:9])[H:10])([N:6]([H:11])[H:12])[O:8]1>>[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([H:13])([H:17])[H:18])([C:5]([N:4]([O:7][H:9])[H:10])=[O:8])[N:6]([H:11])[H:12],45.56967750001661
MR_442745_0,[C:1]([O:5]/[C:3]([C:2]([H:11])([H:12])[H:13])=[C:4](\[O:6][H:8])[H:10])(=[O:7])[H:9]>>[C:1]1([O:7][H:8])([H:9])[O:5][C:3]([C:2]([H:11])([H:12])[H:13])=[C:4]([H:10])[O:6]1,36.09317250000842
MR_237551_0,[C:1]([C:4]([H:16])([H:17])[H:18])([C:5]([H:19])([H:20])[H:21])([N:7]([C:2]([H:10])([H:11])[H:12])[C:3]([H:13])([H:14])[H:15])[C:8]([C:6]([H:22])([H:23])[H:24])=[O:9]>>[C:1]1([C:4]([H:16])([H:17])[H:18])([C:5]([H:19])([H:20])[H:21])[C@:8]([C:6]([H:22])([H:23])[H:24])([N:7]([C:2]([H:10])([H:11])[H:12])[C:3]([H:13])([H:14])[H:15])[O:9]1,64.78372750001597
MR_379998_0,[C@:1]([C:3]([H:14])([H:15])[H:16])([C:5]([C:4]([H:17])([H:18])[H:19])=[O:8])([N:6]([H:9])[H:10])[O:7][C:2]([H:11])([H:12])[H:13]>>[C@@:1]1([C:3]([H:14])([H:15])[H:16])([N:6]([H:9])[H:10])[C@:5]([C:4]([H:17])([H:18])[H:19])([O:7][C:2]([H:11])([H:12])[H:13])[O:8]1,34.18180749998314
MR_502433_0,[C:1](/[C:3]([N:2]([N:4]([H:9])[H:10])[C:7](=[C:8]([H:18])[H:19])[H:14])=[C:6](\[N:5]([H:11])[H:12])[H:13])([H:15])([H:16])[H:17]>>[C:1]([C:3]1([C:7](=[C:8]([H:18])[H:19])[H:14])[N:2]([N:4]([H:9])[H:10])[C:6]1([N:5]([H:11])[H:12])[H:13])([H:15])([H:16])[H:17],70.443149999995
MR_707253_1,[C:1]([C:4](=[C:5]([C:2]([H:15])([H:16])[H:18])[C:3]([H:17])([H:19])[H:20])[N:7]([H:11])[H:12])([O:8][N:6]([H:9])[H:10])([H:13])[H:14]>>[C:1](=[C:4]([C:5]([C:2]([H:15])([H:16])[H:18])([C:3]([H:17])([H:19])[H:20])[O:8][N:6]([H:9])[H:10])[N:7]([H:11])[H:12])([H:13])[H:14],47.338600000009166
MR_449697_2,[C:1]1([C:4]([C:3]([N:5]([H:10])[H:11])=[O:8])=[C:6]([H:14])[H:15])([H:9])[C:2]([H:12])([H:13])[O:7]1>>[C:1]1([C:4]([C:3]([N:5]([H:10])[H:11])=[O:8])=[C:6]([H:14])[H:15])([H:9])[C:2]([H:12])([H:13])[O:7]1,57.02908250001215
MR_27234_0,[C:1]([C:2]([N:4]([H:9])[H:10])=[C:6]([H:13])[H:14])([N:3]([H:7])[H:8])=[C:5]([H:11])[H:12]>>[C:1]1([N:3]([H:7])[H:8])=[C:2]([N:4]([H:9])[H:10])[C:6]([H:13])([H:14])[C:5]1([H:11])[H:12],43.52214500001409
MR_86452_2,[N:1]1([N:3]([H:8])[H:9])[C@:2]([N:6]=[C:4]([H:10])[H:11])([H:7])[C:5]1([H:12])[H:13]>>[N:1]([C:2](=[C:5]([H:12])[H:13])[N:6]=[C:4]([H:10])[H:11])([N:3]([H:8])[H:9])[H:7],53.094029999995485
MR_267964_0,[C:1](\[N:3]([H:10])[H:11])(=[C:4]([C:2](\[O:6][H:9])=[N:7]/[H:12])/[H:13])[O:5][H:8]>>[C:1]1([N:3]([H:10])[H:11])([O:5][H:8])[C:4]([H:13])=[C:2]([O:6][H:9])[N:7]1[H:12],48.96005999998167
MR_235970_1,[C:1]([N:4]([C:2]([H:16])([H:17])[H:18])[C:5]1([C:3]([H:20])([H:21])[H:22])[C:7]2([H:12])[C:6]([O:9][H:10])([H:11])[C:8]12[H:13])([H:14])([H:15])[H:19]>>[C:1]([N:4]([C:2]([H:16])([H:17])[H:18])/[C:5]([C:3]([H:20])([H:21])[H:22])=[C:7]([C:8](=[C:6](/[O:9][H:10])[H:11])\[H:13])/[H:12])([H:14])([H:15])[H:19],57.89189500000958
MR_39196_2,[C:1](/[C:2](=[N:5]/[H:9])[H:11])([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])[C:6]([N:7]([H:8])[H:10])([H:12])[H:13]>>[C:1]([C:2]([N:5]([H:8])[H:9])([H:11])[H:12])([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])/[C:6](=[N:7]/[H:10])[H:13],57.316477499999934
MR_460739_0,[C:1](\[C:2]([H:14])([H:15])[H:16])(=[C:6](\[C:5]([C:4]([C:3]([H:17])([H:18])[H:19])=[O:9])([O:7][O:8][H:10])[H:12])[H:13])[H:11]>>[C:1]([C:2]([H:14])([H:15])[H:16])(/[C:6](=[C:5](/[C:4]([C:3]([H:17])([H:18])[H:19])=[O:9])[H:12])[H:13])([O:7][O:8][H:10])[H:11],45.725924999978815
